US04296040
An aqueous solution of nanaomycin E (200 μg/ml) prepared in Example 1 was adjusted to a pH of 10 with addition of caustic soda. A reducing agent was added to the solution at a concentration of 3% by weight/volume, and the solution was kept at a temperature of 50° C. The change of the concentration of nanaomycin A formed in the solution was determined with the lapse of time. The production yield was determined at the end of the reaction. The results are shown in Table 1.

reactant | nanaomycin E | C[C@H]1[C@@]23C(=O)C4=C(C=CC=C4O)C(=O)[C@@]2(O3)C[C@@H](O1)CC(=O)O | C16H14O7
reactant | caustic soda | [OH-].[Na+]
product | nanaomycin A | CC1C2=C(CC(O1)CC(=O)O)C(=O)C3=C(C2=O)C(=CC=C3)O | C16H14O6
